US06093732
To a flask containing diethyl 2-({4-[(2-hydroxyethyl)amino]anilino}methylene)-malonate (0.48 g) and 1,1'-carbonyldiimidazole (0.32 g) is added toluene (15 mL). The reaction mixture is heated to reflux under an argon atmosphere overnight. The reaction mixture is cooled to room temperatue and partioned between ethyl acetate and phosphate buffer (pH=7, 1M). The phases are separated and the aqueous layer is extracted with two additional portions of ethyl acetate. The combined organic layers are washed with buffer, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is chromatographed on silica eluting with ethyl acetate. The product-containing fractions are evaporated to give 0.46 g of diethyl 2-{[4-(2-oxo-1,3-oxazolidin-3-yl)anilino]methylene}malonate as a creme solid.

reactant | diethyl 2-({4-[(2-hydroxyethyl)amino]anilino}methylene)-malonate | 0.48 g | OCCNC1=CC=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1 | C16H22N2O5
reactant | 1,1'-carbonyldiimidazole | 0.32 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | phosphate | 1M, pH=7 | P(=O)([O-])([O-])[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl 2-{[4-(2-oxo-1,3-oxazolidin-3-yl)anilino]methylene}malonate | 0.46 g | O=C1OCCN1C1=CC=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1 | C17H20N2O6
